US07625908B2
A mixture of 2-methyl-5-(2-methyl-4-nitrophenoxy)pyridine (141 g, 0.58 mol) and 10% palladium on charcoal (13 g) in ethyl acetate (200 ml) and ethanol (700 ml) was stirred under an atmosphere of hydrogen (1.2 bar) for 5 hours. After reaction completion, the mixture was purged with nitrogen and the catalyst was filtered off. The filtrate was evaporated to dryness to give 3-methyl-4-[(6-methylpyridin-3-yl)oxy]aniline (120.6 g, 98%) as a white solid; Mass spectrum MH+ 215.

reactant | 2-methyl-5-(2-methyl-4-nitrophenoxy)pyridine | 0.58 mol, 141 g | CC1=NC=C(C=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])C | C13H12N2O3
catalyst | palladium on charcoal | 13 g | [Pd] | Pd
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | 3-methyl-4-[(6-methylpyridin-3-yl)oxy]aniline | 120.6 g, 98% | CC=1C=C(N)C=CC1OC=1C=NC(=CC1)C | C13H14N2O
